US06229011B1
In an argon atmosphere, DIPEA (0.102 mL; 0.585 mmol) was added to a stirred solution of 2-chloro-4-[5-[[(3-hydroxyphenyl)methyl]amino]-1H-tetrazol-1-yl]benzoic acid (51 mg; 0.15 mmol), 4-[[(2,6-dichlorophenyl]carbonyl]amino]-L-phenylalanine methyl ester (60 mg; 0.15 mmol) and HBTU (59 mg; 0.1555 mmol) in dimethylformamide (3 mL). The reaction mixture was stirred for 17 hr at room temperature, then was concentrated under reduced pressure. The residual oil was taken up in dichloromethane (25 mL) and washed in turn with 0.5 N HCl (10 mL) and water (10 mL). The aqueous layers were backwashed in turn with dichloromethane. The combined organic layers were dried (Na2SO4) and evaporated to give 85 mg of crude product. This material was crystallized from dichloromethane-diethyl ether to furnish 79 mg of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[5-[[(3-hydroxyphenyl)methyl]amino]-1H-tetrazol-1-yl]phenyl]carbonyl]-L-phenylalanine methyl ester as a colorless solid, mp 155-158° C. FAB HRMS: (C32H26Cl3N7O5) Obs. Mass 694.1158 Calcd. Mass 694.1139 (M+H).

reactant | DIPEA | 0.585 mmol, 0.102 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-4-[5-[[(3-hydroxyphenyl)methyl]amino]-1H-tetrazol-1-yl]benzoic acid | 0.15 mmol, 51 mg | ClC1=C(C(=O)O)C=CC(=C1)N1N=NN=C1NCC1=CC(=CC=C1)O | C15H12ClN5O3
reactant | 4-[[(2,6-dichlorophenyl]carbonyl]amino]-L-phenylalanine methyl ester | 0.15 mmol, 60 mg | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | HBTU | 0.1555 mmol, 59 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[5-[[(3-hydroxyphenyl)methyl]amino]-1H-tetrazol-1-yl]phenyl]carbonyl]-L-phenylalanine methyl ester | 79 mg | COC([C@@H](NC(=O)C1=C(C=C(C=C1)N1N=NN=C1NCC1=CC(=CC=C1)O)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C32H26Cl3N7O5
